US08748418B2
To a solution of 3-chloro-5,6-dihydro-[1]pyrindin-7-one (28 mg, 167 μmol) in methanol (6 ml) and dichloromethane (750 μl) at 23° C. was added (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one (intermediate A21A) (49.9 mg, 182 μmol) followed by decaborane (5.6 mg, 167 μmol) and the mixture was stirred at 23° C. for 22 hours. After completion, the mixture was poured into aqueous NaHCO3 solution, extracted with ethyl acetate, the organic layers were dried over Na2SO4 and the solvent evaporated. The crude material was purified by silica gel flash chromatography with n-heptane/ethyl acetate to give the (5R)-5-(5-(3-chloro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ylamino)-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one (62 mg, 87%) as an orange solid. MS (ISP): m/z=426.1 [(M+H)+] and 428.1 [(M+2+H)+].

reactant | 3-chloro-5,6-dihydro-[1]pyrindin-7-one | 167 μmol, 28 mg | ClC=1C=NC=2C(CCC2C1)=O | C8H6ClNO
reactant | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one | 182 μmol, 49.9 mg | NC=1C=CC(=C(C1)[C@]1(NC(COCC1(F)F)=O)C)F | C12H13F3N2O2
reactant | decaborane | 167 μmol, 5.6 mg | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | dichloromethane | 750 μl | ClCCl | CH2Cl2
product | (5R)-5-(5-(3-chloro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-ylamino)-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one | 62 mg, 87% | ClC=1C=C2C(=NC1)C(CC2)NC=2C=CC(=C(C2)[C@]2(NC(COCC2(F)F)=O)C)F | C20H19ClF3N3O2
